US04666913
Step 1: 6-(2-Bromoacetyl)-3,4-dihydro-4-methyl-2(1H)-quinazolinone
2-Bromoacetyl chloride (9.7 g) is added dropwise to a stirred mixture of 3,4-dihydro-4-methyl-2(1H)-quinazolinone (5 g), anhydrous aluminum chloride (10.3 g) and carbon disulfide (100 ml) under nitrogen. The reaction mixture is refluxed for about 18 hours, the carbon disulfide decanted, and the residue treated with hydrochloric acid (6N) and ethyl acetate. The layers are separated, and the aqueous layer extracted with ethyl acetate and the combined ethyl acetate extracts washed with sat'd. aqueous sodium bicarbonate and water and dried. The dried organic extract is filtered and the filtrate evaporated, affording the desired product as a solid, which is used without further purification, M.P. 188°-190° C.

reactant | 2-Bromoacetyl chloride | 9.7 g | BrCC(=O)Cl | C2H2BrClO
reactant | 3,4-dihydro-4-methyl-2(1H)-quinazolinone | 5 g | CC1NC(NC2=CC=CC=C12)=O | C9H10N2O
reactant | aluminum chloride | 10.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
product | 6-(2-Bromoacetyl)-3,4-dihydro-4-methyl-2(1H)-quinazolinone | BrCC(=O)C=1C=C2C(NC(NC2=CC1)=O)C | C11H11BrN2O2
